Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
penicillin
 
Attending: ___.
 
Chief Complaint:
___
 
Major Surgical or Invasive Procedure:
___ Attempted Push Enteroscopy
___ TTE

 
History of Present Illness:
___ year old with a past medical history of cryptogenic cirrhosis
(MELD 15, Child's B, prev decompensated by HE, variceal 
bleeding,
ascites) and non-occlusive portal vein thrombosis, COPD,
diabetes, PVD, and aortic stenosis s/p TAVR presenting with
melena.

He has had 1 day of generalized weakness. Today he had a black 
BM
and was instructed to present to the ED. He has had increased
abdominal girth and ___ edema following recent eating of ___
food. Has chronic productive cough, unchanged. Denies fevers,
chills, nausea, vomiting, abdominal pain, diarrhea, 
constipation,
dysuria. Chronically lightheaded, no change. No change in his
thinking or confusion.

- In the ED, initial vitals were:
T 97.8 HR 74 BP 128/80 RR 18 O2 100% RA 
- Exam was notable for:
Gen: Well-appearing middle-aged man, seen sitting comfortably
Pulm: CTAB no WRR, unlabored breathing
CV: RRR no MRG
HEENT: Dry mucous membranes, PERRLA, EOMI, no scleral icterus
Abdomen: Several areas of hernia soft no exquisite point
tenderness no tappable pocket on bedside ultrasound
Extremities: FROM in all 4 extremities, 2+ pulses peripherally,
no significant edema
Skin: Warm, dry and intact
Neuro: No gross neurologic deficits, alert and oriented, moves
all extremities no obvious facial abnormalities

- Labs were notable for:
Hgb 11.9
- Studies were notable for:
known non-occlusive PVT
- The patient was given:
pantoprazole IV 40 mg
octreotide gtt
- hepatology was consulted: 
 Recommendations:
 -Two IV access
 -ABO Type & cross match
 -RBC transfusion if Hb < 8 mg /dl
 -CBC q 12hrs for now
 -IV PPi gtt
 -IV Octreotide gtt
 -Diagnostic para, then initiate CTX 1 gm IV
 -Routine blood work
 -Infectious workups
 -NPO for now
 -RUQ US doppler 
 -Admit to ET service

On arrival to the floor, patient confirmed the above history. He
endorsed chronic productive cough with no change. One episode of
melena. Chronic lightheadedness, unchanged. No confusion.
Endorsed recent increase in abdominal girth and swelling in 
legs.

 
Past Medical History:
Cryptogenic cirrhosis c/b non-occlusive PVT 
Esophageal Varices s/p banding
Gastric varices
Portal hypertension  
Iron deficiency anemia
T2DM
HTN  
Gout  
Umbilical Hernia
Severe aortic valve stenosis s/p TAVR ___
Patient has 1 functional kidney (born with atrophic kidney)
 
Social History:
___
Family History:
No known family history of cirrosis, GI issues. Father had CAD 
and died of MI. Mother had macular degeneration.  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
___ 0200 Temp: 97.7 PO BP: 123/78 L Sitting HR: 68
RR: 18 O2 sat: 99% O2 delivery: RA 
GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
NECK: No cervical lymphadenopathy.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: No CVA tenderness.
ABDOMEN: soft, NTND
EXTREMITIES: 1+ edema to mid shin. 
SKIN: Warm. Cap refill <2s. No rashes.
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs
spontaneously. ___ strength throughout. Normal sensation. No
asterixis

PHYSICAL EXAM:  
==============
VITALS: 98.1 PO  101/63 L Lying  64  17  94%  Ra    
GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. 
CARDIAC: Regular rhythm, normal rate. S1/S2, ___ systolic
ejection murmur. 
LUNGS: Clear to auscultation bilaterally. 
ABDOMEN: Soft, non-distended compared to baseline, non-tender
EXTREMITIES: 1+ edema to mid shin, improved from prior. 
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs
spontaneously. No asterixis.
DRE/GUAIAC ___: Negative w/ minimal brown stool, no masses or
hemorrhoids 

 
Pertinent Results:
ADMISSION LABS
==============

___ 07:20PM BLOOD WBC-3.2* RBC-3.55* Hgb-11.9* Hct-36.7* 
MCV-103* MCH-33.5* MCHC-32.4 RDW-14.7 RDWSD-56.0* Plt Ct-44*
___ 07:20PM BLOOD Neuts-60.7 ___ Monos-11.8 Eos-2.5 
Baso-0.6 Im ___ AbsNeut-1.96 AbsLymp-0.77* AbsMono-0.38 
AbsEos-0.08 AbsBaso-0.02
___ 07:20PM BLOOD ___ PTT-31.0 ___
___ 07:20PM BLOOD Plt Ct-44*
___ 07:20PM BLOOD Glucose-109* UreaN-27* Creat-1.4* Na-139 
K-4.7 Cl-105 HCO3-23 AnGap-11
___ 07:20PM BLOOD ALT-31 AST-57* AlkPhos-97 TotBili-1.1
___ 07:20PM BLOOD Lipase-33
___ 07:20PM BLOOD cTropnT-<0.01
___ 07:20PM BLOOD Albumin-3.2* Calcium-9.0 Phos-3.7 Mg-2.0
___ 10:31PM BLOOD Lactate-1.4

DISCHARGE LABS
==============

___ 06:43AM BLOOD WBC-1.7* RBC-3.18* Hgb-10.9* Hct-32.8* 
MCV-103* MCH-34.3* MCHC-33.2 RDW-14.4 RDWSD-54.5* Plt Ct-35*
___ 06:43AM BLOOD Plt Ct-35*
___ 06:43AM BLOOD ___ PTT-33.1 ___
___ 06:43AM BLOOD Glucose-124* UreaN-28* Creat-1.3* Na-139 
K-4.4 Cl-108 HCO3-23 AnGap-8*
___ 06:43AM BLOOD ALT-25 AST-42* LD(LDH)-283* AlkPhos-82 
TotBili-1.0
___ 06:43AM BLOOD Calcium-8.2* Phos-3.9 Mg-1.7

___ 12:49AM URINE Blood-SM* Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-2* pH-6.5 Leuks-LG*
___ 12:49AM URINE Color-Yellow Appear-Hazy* Sp ___
___ 12:49AM URINE RBC-4* WBC->182* Bacteri-FEW* Yeast-NONE 
Epi-1 TransE-1

MICRO
=====
Blood Culture (___) (Pending): No growth to date. 
Blood Culture (___) (Pending): No growth to date. 
URINE CULTURE (___): Contaminated
Urine Culture (___): Pending

IMAGING
=======

CT ABD/PELVIS (___)
1. Cirrhosis with sequela of portal hypertension including 
splenomegaly and extensive abdominal varices. 
2. Nonocclusive thrombus in the portal veins, portal splenic 
confluence and SMV.  The splenic vein may be partially 
recanalized, however the lumen remains atretic. Numerous 
perisplenic collaterals are again seen. 
3. No concerning liver lesions. 

Push Enteroscopy (___)
- Scarring was noted in the distal esophagus consistent with 
prior banding
- No evidence of esophageal varices
- Food in the stomach. Procedure was aborted due to significant 
retention in the stomach. 

TTE (___)
Well seated, normal functioning ___ 3 TAVR with normal 
gradient and trace paravalvular aortic regurgitation. Mild 
symmetric left ventricular hypertrophy with normal cavity size 
and regional/global biventricular systolic function. Mildly 
dilated ascending aorta.

Compared with the prior TTE (images reviewed) of ___, the 
findings are similar.

CLINICAL IMPLICATIONS: Based on the echocardiographic findings 
and ___ ACC/AHA recommendations, antibiotic prophylaxis IS 
recommended prior to dental cleanings and other non-sterile 
procedures.
 
Brief Hospital Course:
___ with PMH of cryptogenic cirrhosis Child's B c/b HE, variceal 
bleeding, ascites and non-occlusive portal vein thrombosis, DM, 
PVD, and aortic stenosis s/p TAVR on ___ who p/w melena. Pt was 
unable to undergo push enteroscopy (see below), however 
hemoglobin remained stable and patient was discharged.

ACUTE/ACTIVE ISSUES:
====================

# MELENA:
H/o variceal bleed in ___ requiring banding. Patient had an 
isolated episode of melena at home with Hgb stable from prior, 
denied change in iron regimen or eating beets. Last EGD ___ 
showed Brunner's gland hyperplasia and varices in the cardia 
lesser curve. He was started on an octreotide drip, IV 
pantoprazole, and ceftriaxone empirically, which was 
discontinued on ___. To assess for variceal bleed iso worsening 
portal hypertension from progression of non-occlusive PVT, a CT 
abdomen/pelvis was obtained which demonstrated interval growth 
of thrombus at the SMV and portal vein. A push enteroscopy was 
unable to be performed due to food visualized during the 
procedure and thus was cancelled. His hx of severe aortic 
stenosis also raises the possibility of angiodysplasia iso 
___ syndrome, and his last colonoscopy on ___ did 
demonstrate diverticula and colonic angioectasias. Patient's 
bowel movements were without blood and he was hemodynamically 
stable throughout admission. 

# CRYPTOGENIC CIRRHOSIS: 
MELD 15, Child's Class B, h/o ascites, hepatic encephalopathy, 
variceal bleed (___) s/p banding. Not currently decompensated, 
although has some mild volume overload. Currently listed for 
transplant consideration. RUQUS w/o tappable ascites, known 
non-occlusive thrombus. He was continued on his home midodrine 5 
mg QD and lactulose 30 mg QD. His Lasix 20 mg QD, spironolactone 
100 mg QD was held iso bleed, but restarted upon discharge.

# CHEST PAIN:
Intermittent chest pain and EKG with new QRS widening c/w new 
LBBB. Troponin negative x2. Patient's last cath just prior to 
TAVR with no clinically significant stenosis, so low concern for 
ACS. Patient has outpatient appointment with Dr. ___ on ___ 
and will follow up at that time. Pt underwent post-TAVR TTE 
during admission, no focal WMA noted. 

# PYURIA:
Patient with asymptomatic pyuria on U/A, s/p ceftriaxone 
(___). Urine culture demonstrated mixed culture. 

CHRONIC/STABLE ISSUES:
======================

# LEUKOPENIA:
Chronic since ___, never had formal work up. No significant 
neutropenia. Patient will need hematology outpatient work up. 

# AORTIC STENOSIS:
S/p TAVR ___ and continued on ASA 325 QD. TTE ___ demonstrated 
well-seated valve.

# PORTAL VEIN THROMBOSIS/SMV THROMBUS
Patient has a history of nonocclusive portal vein/SMV 
thrombosis, first noted on imaging in ___. Between ___ and 
___, he had progression of fibrosis including portal 
and superior mesenteric veins. His CT demonstrated progression 
of thrombus with interval growth in portal vein and SMV, and he 
will get follow-up with ___ for evaluation for thrombectomy. 

# CKD:
Cr at upper limit of baseline. One functional kidney.

# T2DM:
Diet controlled currently. 

# GOUT:
Continued home allopurinol ___ mg QD

# GERD: 
Continued on PPI as above.

# Iron Deficiency Anemia: Held home ferrous sulfate 324 mg QD 
initially, restarted upon discharge

TRANSTIONAL ISSUES:
===================
[ ] New LBB noted on EKG, likely post-TAVR effect
[ ] Outpatient appointment with cardiologist Dr. ___ on ___ 
[ ] ___ evaluation for thrombectomy of known PVT pending 
outpatient gastroenterologist recommendation
[ ] Repeat CBC at f/u PCP ___ 
[ ] Continue ongoing workup of pancytopenia 
[ ] Antibiotic prophylaxis recommended prior to dental 
procedures given TAVR

# CODE: Full (confirmed)
# CONTACT: ___ (wife) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. Ferrous GLUCONATE 324 mg PO DAILY 
3. Furosemide 20 mg PO DAILY 
4. Lactulose 30 mL PO DAILY 
5. Midodrine 5 mg PO DAILY 
6. Pantoprazole 40 mg PO Q24H 
7. rifAXIMin 550 mg PO BID 
8. Spironolactone 100 mg PO DAILY 
9. Aspirin 325 mg PO DAILY 
10. Magnesium Oxide 500 mg PO BID 

 
Discharge Medications:
1.  Allopurinol ___ mg PO DAILY  
2.  Aspirin 325 mg PO DAILY  
3.  Ferrous GLUCONATE 324 mg PO DAILY  
4.  Furosemide 20 mg PO DAILY  
5.  Lactulose 30 mL PO DAILY  
6.  Magnesium Oxide 500 mg PO BID  
7.  Midodrine 5 mg PO DAILY  
8.  Pantoprazole 40 mg PO Q24H  
9.  rifAXIMin 550 mg PO BID  
10.  Spironolactone 100 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Melena

Secondary: 
Cryptogenic cirrhosis 
Pyuria 
Diabetes mellitus 
Left bundle branch block 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
======================  
DISCHARGE INSTRUCTIONS  
======================  
 
Dear Mr. ___,  
It was a pleasure caring for you at ___ 
___.  

WHY WAS I IN THE HOSPITAL?  
- You came to the hospital because you had an episode of melena. 


WHAT HAPPENED TO ME IN THE HOSPITAL?  
- We looked in your intestines to check for any signs of active 
bleeding. The procedure (push enteroscopy) was unable to be 
completed unfortunately, however your blood level remained 
stable. Please follow up with your gastroenterologist regarding 
any need for further diagnostic studies
- We also treated you for bacteria in your urine.
- You reported some chest pain to us, and we got EKGs to check 
your heart's electrical activity. We saw an abnormality called a 
left bundle branch block, which can occur after a procedure like 
the one you received last month (TAVR). We were reassured 
against any urgent issue, so we encourage you to follow up with 
your cardiologist Dr. ___ this.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Continue to take all your medicines and keep your 
appointments.  
We wish you the best!  

 Sincerely,  
 Your ___ Team  
 
Followup Instructions:
___